US07166587B2
(S)-(5-Benzoyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester (260 mg, 0.66 mmol) was dissolved in a mixture of trifluoroacetic acid and dichloromethane (1:1, 2 ml) for 2.5 h. Upon evaporation of the volatile parts, (S)-3-amino-5-benzoyl-1-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one was obtained in sufficient purity for the next step.

reactant | (S)-(5-Benzoyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | 0.66 mmol, 260 mg | C(C)(C)(C)OC(N[C@H]1CN(C2=C(N(C1=O)C)C=CC=C2)C(C2=CC=CC=C2)=O)=O | C22H25N3O4
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-3-amino-5-benzoyl-1-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one | N[C@H]1CN(C2=C(N(C1=O)C)C=CC=C2)C(C2=CC=CC=C2)=O | C17H17N3O2
